US05281593
ii) 3-(1,3-Dioxolan-2-yl)benzyl alcohol
A solution of methyl 3-(1,3-dioxolan-2-yl)benzoate (11.0 g., 53 mmol) in tetrahydrofuran (50 ml) was added dropwise to a stirred suspension of lithium aluminium hydride (3.2 g) in tetrahydrofuran (100 ml). The temperature rose to ca. 45° C. The mixture was stirred for a further 1 hour cooling to room temperature, then was cooled in ice whilst water (3.2 ml) 2M sodium hydroxide (6.4 ml) and more water (6.4 ml) were added dropwise. The mixture was filtered through a pad of Celite filter acid and the filtrate was evaporated to a colourless oil.

reactant | methyl 3-(1,3-dioxolan-2-yl)benzoate | 53 mmol, 11.0 g | O1C(OCC1)C=1C=C(C(=O)OC)C=CC1 | C11H12O4
reactant | lithium aluminium hydride | 3.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2M, 3.2 ml | O | H2O
reactant | water | 6.4 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(1,3-Dioxolan-2-yl)benzyl alcohol | O1C(OCC1)C=1C=C(CO)C=CC1 | C10H12O3
